US07732438B2
Step B: N-[(6S,9R)-6-(2,3-Difluorophenyl)-3-ethyl-2,5,6,7,8,9-hexahydro-3H-imidazo[1,2-a]azepin-9-yl]-4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxamide
Triethylamine (17 μL, 0.124 mmol) was added to a solution of the (6S,9R)-6-(2,3-difluorophenyl)-3-ethyl-2,5,6,7,8,9-hexahydro-3H-imidazo[1,2-a]azepin-9-amine (13 mg, 0.035 mmol) and 4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carbonyl chloride (15 mg, 0.053 mmol) in dichloromethane (1 mL). After 18 h, saturated aqueous sodium bicarbonate was added and the mixture was extracted with dichloromethane (3×). The combined organic extracts were dried over sodium sulfate, filtered, and concentrated. Purification by reverse phase HPLC(C-18, 95% water/acetonitrile 30% water/acetonitrile with 0.1% trifluoroacetic acid) gave the title compound (8 mg). MS 538.2710 (M+1).

reactant | Triethylamine | 0.124 mmol, 17 μL | C(C)N(CC)CC | C6H15N
reactant | (6S,9R)-6-(2,3-difluorophenyl)-3-ethyl-2,5,6,7,8,9-hexahydro-3H-imidazo[1,2-a]azepin-9-amine | 0.035 mmol, 13 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(CN2)CC)N | C16H21F2N3
reactant | 4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carbonyl chloride | 0.053 mmol, 15 mg | O=C1N(C=2C(=NC=CC2)N1)C1CCN(CC1)C(=O)Cl | C12H13ClN4O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | N-[(6S,9R)-6-(2,3-Difluorophenyl)-3-ethyl-2,5,6,7,8,9-hexahydro-3H-imidazo[1,2-a]azepin-9-yl]-4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxamide | 8 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(CN2)CC)NC(=O)N2CCC(CC2)N2C(NC1=NC=CC=C12)=O | C28H33F2N7O2
